US04361563
(a) 5-Methyl-6-[3-amino-4-(2-methyl-valeryl-amino)phenyl]-3-oxo-4,5-dihydro-2H-pyridazine
Prepared analogous to Example 19(a) from 12.5 gm of 5-methyl-6-[3-nitro-4-(2-methyl-valeryl-amino)-phenyl]-3-oxo-4,5-dihydro-2H-pyridazine. After mixing with water, the product was extracted with ethyl acetate.

reactant | 5-methyl-6-[3-nitro-4-(2-methyl-valeryl-amino)-phenyl]-3-oxo-4,5-dihydro-2H-pyridazine | 12.5 gm | CC1CC(NN=C1C1=CC(=C(C=C1)NC(C(CCC)C)=O)[N+](=O)[O-])=O | C17H22N4O4
solvent | water | O | H2O
product | 5-Methyl-6-[3-amino-4-(2-methyl-valeryl-amino)phenyl]-3-oxo-4,5-dihydro-2H-pyridazine | CC1CC(NN=C1C1=CC(=C(C=C1)NC(C(CCC)C)=O)N)=O | C17H24N4O2
